US06235731B1
2) Synthesis of N-[1-(4-phenoxybutan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 0.3241 g (0.70 mM) of N-[1-(4-phenoxybutan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (4 ml) was added 1.0 ml (4 mM) of 4N-HCl/methanol. The solvent was distilled off under reduced pressure and the residue was diluted with ethanol and ether. The resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-[1-(4-phenoxybutan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.70 mM, 0.3241 g | O(C1=CC=CC=C1)CCCCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C26H30N4O2S
reactant | HCl methanol | Cl.CO
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-[1-(4-phenoxybutan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.O(C1=CC=CC=C1)CCCCN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C26H30N4O2S.2ClH/c31-26(23-17-21-19-27-24-9-6-10-25(33-23)30(21)24)28-18-20-11-14-29(15-12-20)13-4-5-16-32-22-7-2-1-3-8-22;;/h1-3,6-10,17,19-20H,4-5,11-16,18H2,(H,28,31);2*1H
